US07534788B2
Step 1: (2,4-Dimethoxy-phenyl)-(4-fluoro-phenyl)methanone
1,3-Dimethoxybenzene (5.00 g, 36.2 mmol) and AlCl3 (5.79 g, 1.2 eq.) were dissolved in 360 ml of CH2Cl2 and cooled down to 0° C. 4-Fluoro-benzoyl chloride (4.34 mL, 1.0 eq.) was slowly added via dropping funnel and the mixture allowed to react for another h at ambient temperature. Pouring onto crashed ice, twofold extraction with AcOEt, washing with water and brine, drying over sodium sulfate, and evaporation of the solvents, followed by short flash chromatography (SiO2, hexane/AcOEt 8/2), yielded 7.75 g of the title compound as white solid.

reactant | 1,3-Dimethoxybenzene | 36.2 mmol, 5.00 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | AlCl3 | 5.79 g, 1.2 eq. | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-Fluoro-benzoyl chloride | 4.34 mL, 1.0 eq. | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | CH2Cl2 | 360 ml | C(Cl)Cl | CH2Cl2
product | (2,4-Dimethoxy-phenyl)-(4-fluoro-phenyl)methanone | 7.75 g | COC1=C(C=CC(=C1)OC)C(=O)C1=CC=C(C=C1)F | C15H13FO3
